* Compiled-model tabulated noise -- T5.6's noise_table() lowering gate.
* Two 1k resistors in series across a 1 V source, probed at their junction. Both resolve to the
* *compiled* models/resistor_noise_table.va (via --model), whose analog block declares its
* thermal noise as
*   I(p,n) <+ noise_table({1e2, 4kT/R, 1e3, 4kT/R, 1e6, 4kT/R})
* rather than as white_noise(). Before noise_table() was lowered this deck measured an
* identically-zero spectrum, the same way circuits/resistor_noise_va.net did before T5.3.
*
* Why both resistors are 1k, and not 1k/3k like resistor_noise_va.net: a table is constant data
* the frontend const-folds at elaboration, so it cannot follow the per-device resistance va-cli
* overrides onto the model's first parameter afterwards. Both devices must therefore use the
* model's own default R -- see models/resistor_noise_table.va's note 2.
*
* The two sources add in power and reach the output through the same R1||R2 = 500 ohm, so the
* answer is the textbook 4kT*(R1||R2), flat (nothing here is reactive):
*   S(out) = 4kT*500 ~ 8.289e-18 V^2/Hz
* The sweep runs 10 Hz - 10 MHz while the table only spans 100 Hz - 1 MHz, so every run walks
* all three of the LRM's code paths: clamp below 100 Hz, interpolate in between, clamp above
* 1 MHz. Be clear about what that does and doesn't prove, though -- the table is *flat*, so
* clamping and extrapolating would give the same answer here; this deck pins the absolute level
* and the end-to-end path (frontend -> IR -> codegen -> Interface beta -> adjoint -> harness)
* exactly, while telling the three interpolation rules apart is the job of the shaped tables in
* va-abi's and va-acnoise's unit tests. A flat table is the only shape QSPICE has a native
* primitive to compare against at all, which is why the split of duties is this way round.
*
* Pure R/V, so QSPICE runs it with no model translation at all.
V1 in  gnd  DC 1
R1 in  a    1000
R2 a   gnd  1000
.noise V(a) V1 dec 10 10 10meg
.end
